US03971828
13.1g (0.10 mol) of DL-leucine was neutralized with 50 ml of 2N-NaOH solution and to the solution were simultaneously added dropwise 17.1g (0.10 mol) of 2-bromopropionylchloride and 50 ml of 2N-NaOH solution at room temperature over one hour while stirring and maintaining the reaction mixture in a slightly alkaline condition. After completion of the addition, the ice bath used was removed and the mixture was stirred at room temperature for 3 hours. Successively, to the mixture was added the filtrate which had been prepared by neutralizing 13.8g (0.10 mol) of thiobenzoic acid with 50 ml of 2N--KOH solution and filtering. The resulting mixture was stirred at room temperature overnight and then acidified with hydrochloric acid to form oil. After extraction of oil with ethyl acetate, the oil was purified by subjecting it to chromatography using a silica gel column to give 18.5g of N-(2-benzoylmercaptopropionyl)leusine as oil. 40 ml of concentrated aqueous ammonia was added to 6.0g of N-(2-benzoylmercaptopropionyl)leucine to allow the derivative of leucine to hydrolyze in a manner similar to that used in Example I to give 2.6g of N-(2-mercaptopropionyl)leucine, ##EQU10## (m.p. 77° - 84°C)

reactant | DL-leucine | 0.10 mol, 13.1g | NC(CC(C)C)C(=O)O | C6H13NO2
reactant | NaOH | [OH-].[Na+]
reactant | 2-bromopropionylchloride | 0.10 mol, 17.1g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | thiobenzoic acid | 0.10 mol, 13.8g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | N-(2-benzoylmercaptopropionyl)leucine | 6.0g | C(C1=CC=CC=C1)(=O)SC(C(=O)N[C@@H](CC(C)C)C(=O)O)C | C16H21NO4S
reactant | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
solvent | ammonia | 40 ml | N | H3N
product | N-(2-mercaptopropionyl)leucine | 2.6g | SC(C(=O)N[C@@H](CC(C)C)C(=O)O)C | C9H17NO3S
